US07569600B2
To a stirred solution of 3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-5-tributylstannanyl-thiophene-2-carboxylic acid methyl ester (150 mg, 0.23 mmol) in toluene (5 mL) were added (PPh3)4Pd (26 mg), CuBr (2 mg, catalytic) and trifluoro-methanesulfonic acid 4-phenoxy-cyclohex-1-enyl ester (87 mg, 0.27 mmol) under nitrogen. The reaction mixture was stirred and heated to reflux during 5 h. The progress of the reaction was monitored by TLC. Filtration and removal of the solvent under reduced pressure on a rotary evaporator followed by silica gel column chromatography using ethyl acetate and hexane (4:1) afforded 3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-5-(4-phenoxy-cyclohex-1-enyl)-thiophene-2-carb-oxylic acid methyl ester (30 mg, 24%) as a syrup.

reactant | 3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-5-tributylstannanyl-thiophene-2-carboxylic acid methyl ester | 0.23 mmol, 150 mg | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)O)[Sn](CCCC)(CCCC)CCCC
reactant | trifluoro-methanesulfonic acid 4-phenoxy-cyclohex-1-enyl ester | 0.27 mmol, 87 mg | O(C1=CC=CC=C1)C1CC=C(CC1)OS(=O)(=O)C(F)(F)F | C13H13F3O4S
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | (PPh3)4Pd | 26 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-5-(4-phenoxy-cyclohex-1-enyl)-thiophene-2-carb-oxylic acid methyl ester | 30 mg, 24% | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)O)C1=CCC(CC1)OC1=CC=CC=C1 | C32H41NO5S
